US08039458B2
4-((2-Chloroethoxy)methyl)-N-hydroxytetrahydro-2H-pyran-4-carboximidamide:
Reaction of 4-((2-chloroethoxy)methyl)tetrahydro-2H-pyran-4-carbonitrile (10.78 g, 52.9 mmol) with hydroxylamine gave 10.59 g (84% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.60 (2H, m, CH2), 2.04 (2H, m, CH2), 3.52 (2H, s, CH2), 3.55-3.85 (8H, m, 4×CH2), 5.01 (2H, broad s). MS (ESI+) m/e 237 [M+H+].

reactant | 4-((2-chloroethoxy)methyl)tetrahydro-2H-pyran-4-carbonitrile | 52.9 mmol, 10.78 g | ClCCOCC1(CCOCC1)C#N | C9H14ClNO2
reactant | hydroxylamine | NO | H3NO
product | 4-((2-Chloroethoxy)methyl)-N-hydroxytetrahydro-2H-pyran-4-carboximidamide | 10.59 g, 84% yield | ClCCOCC1(CCOCC1)C(NO)=N | C9H17ClN2O3
